US04394159
2-Chloro-3-(4-chlorophenoxy)-6-nitro-N-2-chloroethylaniline
An amount of 4.5 gm of 2-chloro-3-(4-chlorophenoxy)-6-nitro-N-2-hydroxyethylaniline was dissolved in 40 ml of toluene and mixed with 2.9 gm of PCl5, spontaneous heating and gas generation taking place. After 30 minutes the mixture was shaken with water and sodium bicarbonate solution and is evaporated. 3.6 gm of a yellowy brown oil were obtained (76% of theory).

reactant | 2-chloro-3-(4-chlorophenoxy)-6-nitro-N-2-hydroxyethylaniline | 4.5 gm | ClC1=C(NCCO)C(=CC=C1OC1=CC=C(C=C1)Cl)[N+](=O)[O-] | C14H12Cl2N2O4
reactant | PCl5 | 2.9 gm | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-3-(4-chlorophenoxy)-6-nitro-N-2-chloroethylaniline | 3.6 gm | ClC1=C(NCCCl)C(=CC=C1OC1=CC=C(C=C1)Cl)[N+](=O)[O-] | C14H11Cl3N2O3
